US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-(3-chlorophenyl-oxy)-pyrazine, CJS 504
Using Method EE with 2-chloro-6-(3-chlorophenyloxy)-pyrazine (200 mg, 0.83 mmol) and 3,4,5-trimethoxyaniline (183 mg, 1.00 mmol), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (165 mg). Yield: 43%. 1H NMR (250 MHz, DMSO-d6) δ 3.43 (s, 6H, [CH3O]3+5), 3.54 (s, 3H, [CH3O]4), 6.76 (s, 2H, Harom2′+6′), 7.18 (d, 1H, Harom 4, J=6.5 Hz), 7.28 (d, 1H, Harom 6, J=6.7 Hz), 7.36 (s, 1H, Harom 2), 7.43 (t, 1H, Harom 5, J=8.1 Hz), 7.79 (s, 1H, HPz 5), 7.98 (s, 1H, HPz 3), 9.62 (s, 1H, NH).

reactant | 2-chloro-6-(3-chlorophenyloxy)-pyrazine | 0.83 mmol, 200 mg | ClC1=NC(=CN=C1)OC1=CC(=CC=C1)Cl | C10H6Cl2N2O
reactant | 3,4,5-trimethoxyaniline | 1.00 mmol, 183 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(3,4,5-Trimethoxyphenylamino)-6-(3-chlorophenyl-oxy)-pyrazine | Yield: 43% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC(=CC=C1)Cl | C19H18ClN3O4
